US04965270
To a solution of 2-buten-1,4-diol (4.9 g, 60 mmol) in dry dimethylformamide (120 ml) was added sodium hydride (60% dispersion in oil; 5.28 g, 132 mmol) and the mixture was stirred at room temperature for 100 minutes. To this solution was added 4-methoxybenzyl chloride (17.9 ml, 132 mmol) in dimethylformamide (30 ml) dropwise over 45 minutes and the mixture was stirred for a further 40 minutes. The mixture was partitioned between ether (150 ml) and water (150 ml). The organic layer was further washed with water (150 ml), dried (magnesium sulphate) and the solvent was removed. The residue was purified by column chromatography on silica gel eluting with hexane-acetone (4:1, 3:1) to afford 1,4-bis(4-methoxybenzyloxy)but-2-ene as a clear colourless liquid (13.7 g, 70%). IR: υmax (film) 2840, 1615, 1515 and 1250 cm-1. 1H NMR: δH (CDCl3) 3.80 (6H, s, 2×CH3), 4.02 (4H, d, J=4.5 Hz, 2×CHCH2), 4.43 (4H, s, 2×ArCH2), 5.79 (2H, t, J=4.5 Hz, 2×CH), 6.88 (4H, d, J=9 Hz, ArH) and 7.27 (4H, d, J=9 Hz, ArH).

reactant | 2-buten-1,4-diol | 60 mmol, 4.9 g | C(C=CCO)O | C4H8O2
reactant | sodium hydride | 132 mmol, 5.28 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 132 mmol, 17.9 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,4-bis(4-methoxybenzyloxy)but-2-ene | 13.7 g, 70% | COC1=CC=C(COCC=CCOCC2=CC=C(C=C2)OC)C=C1 | C20H24O4
